US04174405
In a 500 ml flask were placed 36.9 g (0.23 mole) of 2-phenylthiophene, 200 ml of reagent carbon tetrachloride, 36.9 g (0.26 mole) of benzenesulfenyl chloride and 0.2 g of iron powder. The reaction mixture was allowed to stand four days at room temperature. Distillation of the carbon tetrachloride gave a crystalline residue which was recrystallized first from ethanol-ethyl acetate (9:1) and then from ethyl acetate-pentane (1:9) to give 10.6 g (17%) of 2-phenyl-5-(phenylthio)thiophene, m.p. 72.5°-74.5° C.

reactant | 2-phenylthiophene | 0.23 mole, 36.9 g | C1(=CC=CC=C1)C=1SC=CC1 | C10H8S
reactant | benzenesulfenyl chloride | 0.26 mole, 36.9 g | C1(=CC=CC=C1)SCl | C6H5ClS
catalyst | iron | 0.2 g | [Fe] | Fe
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-phenyl-5-(phenylthio)thiophene | 10.6 g, 17% | C1(=CC=CC=C1)C=1SC(=CC1)SC1=CC=CC=C1 | C16H12S2
